US04661477
A mixture of 11 g. (0.1 moles) of dimethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 8.51 g. (0.1 moles) of 3-methoxypropyl amine and 30 ml. of methanol as described in Example 1. 18.5 g. of 3-methoxypropyl-ammoniummethyl phosphonate are obtained. Yield: 99.9%. nD30 =1.4449.

reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
reactant | 3-methoxypropyl amine | 0.1 moles | COCCCN | C4H11NO
solvent | methanol | CO | CH4O
product | 3-methoxypropyl-ammoniummethyl phosphonate | Yield: 99.9% | CP([O-])([O-])=O.COCCC[NH3+].COCCC[NH3+] | InChI=1S/2C4H11NO.CH5O3P/c2*1-6-4-2-3-5;1-5(2,3)4/h2*2-5H2,1H3;1H3,(H2,2,3,4)
